US04464531
A solution of 0.55 g of methyl 1-O-(5-carbamoyl-1H-imidazole-4-yl)-β-D-glucopyranuronate in 50 ml of dry methanol was saturated with ammonia (gas) cooling in an ice bath and the reaction mixture was stirred for 1.5 hours. Then the reaction mixture was heated to room temperature and was concentrated to a residue under reduced pressure. The residue was washed with methanol and ether, and then separated crystals were filtered off and dried to give 0.5 g of 1-O-(5-carbamoyl-1H-imidazole-4-yl)-β-D-glucopyranuronamide which was recrystallized from water-ethanol. m.p. 206° C. (dec.)

reactant | methyl 1-O-(5-carbamoyl-1H-imidazole-4-yl)-β-D-glucopyranuronate | 0.55 g | C(N)(=O)C1=C(N=CN1)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)C(=O)OC | C11H15N3O8
reactant | ammonia | N | H3N
solvent | methanol | 50 ml | CO | CH4O
product | 1-O-(5-carbamoyl-1H-imidazole-4-yl)-β-D-glucopyranuronamide | 0.5 g | C(N)(=O)C1=C(N=CN1)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)C(=O)N | C10H14N4O7
